US08748608B2
N-(4-(4-(2-methoxyphenyl)piperazin-1-yl)-trans-but-2-enyl)-9H-fluorene-2-carboxamide (15).
Prepared from 9H-fluorene-2-carboxylic acid and 4-(4-(2-methoxyphenyl)-piperazin-1-yl)-trans-but-2-enyl amine according to the general procedure. Yield: 61%. Mp. (hydrochloride): 224-226° C. 1H NMR (400 MHz, CDCl3): d 2.68 (s, 4H), 3.09-3.10 (m, 6H), 3.86 (s, 3H), 3.94 (s, 2H), 4.13 (m, 2H), 5.81-5.83 (m, 2H), 6.32 (t, J 5.4, 1H), 6.85 (dd, J 8.2, 1.2, 1H), 6.89-6.96 (m, 2H), 7.00 (m, 1H), 7.35 (td, J 7.3, 1.3, 1H), 7.40 (td, J 7.4, 1.6, 1H), 7.57 (d, J 7.4, 1H), 7.78-7.83 (m, 3H), 7.99 (s, 1H). 13C NMR (101 MHz, CDCl3): d 37.4, 42.0, 51.0, 53.8, 55.8, 60.8, 111.6, 118.7, 120.2, 121.0, 121.4, 123.4, 124.3, 125.7, 126.2, 127.5, 128.1, 129.3, 130.4, 133.1, 141.1, 141.7, 143.9, 144.5, 145.4, 152.7, 168.0. Anal. (C29H31N3O2.3HCl) C, H, N.

reactant | 9H-fluorene-2-carboxylic acid | C1=C(C=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | 4-(4-(2-methoxyphenyl)-piperazin-1-yl)-trans-but-2-enyl amine | COC1=C(C=CC=C1)N1CCN(CC1)C/C=C/CN | C15H23N3O
reactant | hydrochloride | Cl | ClH
product | N-(4-(4-(2-methoxyphenyl)piperazin-1-yl)-trans-but-2-enyl)-9H-fluorene-2-carboxamide | Yield: 61% | COC1=C(C=CC=C1)N1CCN(CC1)C/C=C/CNC(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C29H31N3O2
